US04025642
Following the procedure of Example 1, 3 g. (0.0195 mol) of 4-amino-2-nitrophenol is added to a refluxing solution of 4.1 g. (0.0195 mol) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one in methanol and the mixture is refluxed for about two hours. Filtration of the reaction mixture yields 5-acetyl-4-hydroxy-3-[1-(3-nitro-4-hydroxyphenylamino)ethylidene]-2H-pyran-2,6(3H)-dione, m.p. 236°-237° C. (dec.).

reactant | 4-amino-2-nitrophenol | 0.0195 mol | NC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | 0.0195 mol | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
solvent | methanol | CO | CH4O
product | 5-acetyl-4-hydroxy-3-[1-(3-nitro-4-hydroxyphenylamino)ethylidene]-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC(=C(C=C1)O)[N+](=O)[O-])O | C15H12N2O8
